US07375134B2
Synthesis of (2S)-2-{(S)-[(4′-methanesulfonylbiphenyl-4-yl)-thiazol-2-yl-methyl]-amino}-4-methylpentanoic acid (1-cyanocyclopropyl)-amide
The title compound was prepared in similar manner to that described for (2S)-2-{(S)-[(2′,4′-difluorobiphenyl-4-yl)-thiazol-2-yl-methyl]-amino}-4-methylpentanoic acid (1-cyanocyclopropyl)-amide, via Suzuki cross-coupling of (2S)-2-{(S)-[(4-bromophenyl)-thiazol-2-yl-methyl]-amino}-4-methylpentanoic acid (1-cyanocyclopropyl)-amide with 4-methanesulfonylphenylboronic acid, in the presence of [1,1′-bis(diphenylphosphino)-ferrocene]dichloropalladium(II), dichloromethane complex.

reactant | (2S)-2-{(S)-[(2′,4′-difluorobiphenyl-4-yl)-thiazol-2-yl-methyl]-amino}-4-methylpentanoic acid (1-cyanocyclopropyl)-amide | C(#N)C1(CC1)NC([C@H](CC(C)C)N[C@H](C=1SC=CN1)C1=CC=C(C=C1)C1=C(C=C(C=C1)F)F)=O | C26H26F2N4OS
reactant | (2S)-2-{(S)-[(4-bromophenyl)-thiazol-2-yl-methyl]-amino}-4-methylpentanoic acid (1-cyanocyclopropyl)-amide | C(#N)C1(CC1)NC([C@H](CC(C)C)N[C@H](C=1SC=CN1)C1=CC=C(C=C1)Br)=O | C20H23BrN4OS
reactant | 4-methanesulfonylphenylboronic acid | CS(=O)(=O)C1=CC=C(C=C1)B(O)O | C7H9BO4S
catalyst | [1,1′-bis(diphenylphosphino)-ferrocene]dichloropalladium(II) | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2]
product | (2S)-2-{(S)-[(4′-methanesulfonylbiphenyl-4-yl)-thiazol-2-yl-methyl]-amino}-4-methylpentanoic acid (1-cyanocyclopropyl)-amide | C(#N)C1(CC1)NC([C@H](CC(C)C)N[C@H](C=1SC=CN1)C1=CC=C(C=C1)C1=CC=C(C=C1)S(=O)(=O)C)=O | C27H30N4O3S2
